US09278915B2
Intermediate 178: Ethyl 3-hydroxy-3-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}propanoate
To a solution of methyl 3-hydroxy-3-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}-2-(phenylsulfanyl)propanoate (0.05 g, 0.09 mmol) in benzene was added AIBN (catalytic amount) and tributyl tin hydride, the resulting mass was refluxed at 80° C. for 4 h. RM quenched with water extracted with ethyl acetate, Organic layer was washed with water and brine, dried over anhydrous Na2SO4 and concentrated to yellow oil which was further purified by Preparative TLC using 10% ethyl acetate in chloroform to get the titled compound as yellow oil (0.015 g, Yield: 37.5%) 1H NMR (300 MHz, CDCl3): δ 7.63-7.65 (m, 2H), 7.32-740 (m, 5H), 7.23-7.26 (d, 2H), 6.9-6.93 (m, 4H), 5.37-5.38 (d, 1H), 5.22 (s, 2H), 4.98 (s, 2H), 4.85-4.92 (t, 1H), 3.99 (s, 3H), 3.57 (s, 3H), 3.15-3.17 (d, 1H), 2.57-2.59 (d, 2H).

reactant | methyl 3-hydroxy-3-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}-2-(phenylsulfanyl)propanoate | 0.09 mmol, 0.05 g | OC(C(C(=O)OC)SC1=CC=CC=C1)C1=CC=C(C=C1)OCC1=CC=C(C=C1)OC\C(\C1=CC=CC=C1)=N/OC | C32H31NO6S
reactant | AIBN | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | tributyl tin hydride | C(CCC)[SnH](CCCC)CCCC
solvent | benzene | C1=CC=CC=C1 | C6H6
product | Ethyl 3-hydroxy-3-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}propanoate | 0.015 g, Yield: 37.5% | OC(CC(=O)OCC)C1=CC=C(C=C1)OCC1=CC=C(C=C1)OC\C(\C1=CC=CC=C1)=N/OC | C27H29NO6
